US06982348B2
A solution of tert-butyl N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methyl]ethyl]carbamate (0.291 g, 0.643 mmol) and conc. hydrochloric acid. (0.2 ml) in methanol (5 ml) was stirred at 60° C. for 0.5 hr. The reaction solution was diluted with water, alkalified with potassium carbonate, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give a crude product of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]propan-1-ol as a white solid (0.227 g).

reactant | tert-butyl N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]methyl]ethyl]carbamate | 0.643 mmol, 0.291 g | FC1=CC=C(C=C1)C(C(CC1=CC(=NO1)OC(C(F)F)(F)F)NC(OC(C)(C)C)=O)O | C19H21F5N2O5
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)isoxazol-5-yl]propan-1-ol | 0.227 g | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=NO1)OC(C(F)F)(F)F | C14H13F5N2O3
